US06828079B2
Synthesis of 2-ethyl-2-adamantyl Methacrylate/p-acetoxystyrene Copolymer (20:80)
The weight of the resulted copolymer of 2-ethyl-2-adamantyl methacrylate and p-acetoxystyrene was 250 g (weight of wet cake containing methanol).

reactant | 2-ethyl-2-adamantyl methacrylate | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC | C16H24O2
reactant | p-acetoxystyrene | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
solvent | methanol | CO | CH4O
product | 2-ethyl-2-adamantyl Methacrylate p-acetoxystyrene | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC.C(C)(=O)OC1=CC=C(C=C)C=C1 | InChI=1S/C16H24O2.C10H10O2/c1-4-16(18-15(17)10(2)3)13-6-11-5-12(8-13)9-14(16)7-11;1-3-9-4-6-10(7-5-9)12-8(2)11/h11-14H,2,4-9H2,1,3H3;3-7H,1H2,2H3
